US09422307B2
Step 1. 2-chloro-7-(3-nitrophenyl)thieno[3,2-d]pyrimidin-4-amine
7-Bromo-2-chlorothieno[3,2-d]pyrimidin-4-amine (500 mg, 1.90 mmol) was dissolved in dioxane (10 mL) and then 2.0 N sodium carbonate (2.85 mL, 5.70 mmol) and 3-nitrophenylboronic acid (320 mg, 1.90 mmol) were added. After flowing nitrogen to the mixture solution for 10 minutes, Pd2(PPh3)Cl2 (80 mg, 0.11 mmol) and t-Butyl Xphos (73 mg, 0.17 mmol) were added. The reaction mixture solution was stirred at 90° C. for 6 hours, filtered with celite, and washed with ethyl acetate. The aqueous layer was separated from the organic layer and extracted with ethyl acetate. The organic layer was combined, washed with brine, dried with MgSO4, and then concentrated by filtering. Purification by silica gel chromatography (1/4 to 1/3 ethyl acetate/hexane) yielded the target compound (420 mg, 72% yield).

reactant | 7-Bromo-2-chlorothieno[3,2-d]pyrimidin-4-amine | 1.90 mmol, 500 mg | BrC1=CSC2=C1N=C(N=C2N)Cl | C6H3BrClN3S
reactant | sodium carbonate | 5.70 mmol, 2.0 N, 2.85 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-nitrophenylboronic acid | 1.90 mmol, 320 mg | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | t-Butyl Xphos | 0.17 mmol, 73 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC=CC=C2P(C(C)(C)C)C(C)(C)C)C(C)C | C29H45P
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-chloro-7-(3-nitrophenyl)thieno[3,2-d]pyrimidin-4-amine | 420 mg, 72% yield | ClC=1N=C(C2=C(N1)C(=CS2)C2=CC(=CC=C2)[N+](=O)[O-])N | C12H7ClN4O2S
